*SRC=60GT60JR;60GT60JR;IGBTs;No Diode;APT 600V 90A 30NS ISOTOP
*SYM=IGBT
.SUBCKT 60GT60JR 71 72 73
* TERMINALS: C G E
Q1 83 81 85 QOUT
M1 81 82 83 83 MFIN L=1U W=1U
DDS 83 81 DO
DBE 85 81 DE
RC 85 71 16.9M
RE 83 74 1.69M
RG 72 82 1.67
CGE 82 83 3.02N
EGD 91 0 82 81 1
VFB 93 0 0
FFB 82 81 VFB 1
CGD 92 93 36.4N
R1 92 0 1
D1 91 92 DLIM
DHV 94 93 DR
R2 91 94 1
D2 94 0 DLIM
LE 73 74 7N
DLV 94 95 DR 13
RLV 95 0 1
ESD 96 93 POLY(1) 83 81 19 1
MLV 95 96 93 93 SW
.MODEL SW NMOS (LEVEL=3 VTO=0 KP=5)
.MODEL QOUT PNP (IS=1.06P NF=1.2 BF=5.1 CJE=38.2N
+ TF=30N XTB=1.3)
.MODEL MFIN NMOS (LEVEL=3 VMAX=400K THETA=57.1M ETA=0.2 VTO=4.2 KP=4.99)
.MODEL DR D (IS=106F CJO=2.6N VJ=1 M=0.82)
.MODEL DO D (IS=106F BV=599 CJO=1.76N VJ=1 M=0.7)
.MODEL DE D (IS=106F BV=15 N=2)
.MODEL DLIM D (IS=100N)
.ENDS